* C:\Users\chaim\Desktop\E C E\ING4\MICROCONTROLEURS\FunctionGenerator\schemaDAC8bit.asc
R1 P001 N013 20k
R2 P002 N015 20k
R3 P003 N009 20k
R4 P004 N014 20k
R5 P005 N010 20k
R6 P006 N011 20k
R7 P007 N012 20k
R8 P008 out 20k
R9 N013 0 20k
R10 N015 N013 10k
R11 N009 N015 10k
R12 N014 N009 10k
R13 N010 N014 10k
R14 N011 N010 10k
R15 N012 N011 10k
R16 out N012 10k
V§b0 P001 0 5
V§b1 P002 0 5
V§b2 P003 0 5
V§b3 P004 0 5
V§b4 P005 0 5
V§b5 P006 0 5
V§b6 P007 0 5
V§b7 P008 0 5
R17 RB0 N006 2k
R18 RB1 N008 2k
R19 RB2 N001 2k
R20 RB3 N007 2k
R21 RB4 N002 2k
R22 RB5 N003 2k
R23 RB6 N004 2k
R24 RB7 N005 2k
R25 N006 0 2k
R26 N008 N006 1k
R27 N001 N008 1k
R28 N007 N001 1k
R29 N002 N007 1k
R30 N003 N002 1k
R31 N004 N003 1k
R32 N005 N004 1k
V3 RA0-potentiomètre 0 5
.include SP.lib
;tran 0 500m 1m
.include SP.lib
.tran 0 500m 1m
.backanno
.end
